US07514419B2
To a solution of 4-bromophenol (13.84 gm, 0.08 Mol), 4-fluorobenzyl alcohol (8.68 gm, 0.08 Mol), and 120 mL of dichloroethane was added zinc bromide (21 gm, 0.09 Mol). The reaction mixture was stirred at 60° C. for 24 h, filtered and concentrated under reduced pressure. Pure product was obtained by flash chromatography using SiO2, dichloromethane/hexane [1:1] as eluant to give 4-bromo-2-(4-fluorobenzyl)phenol (9.25 g, 41%) as colorless oil: 1H NMR (200 MHz, DMSO-d6): δ 9.79 (s, 1H), 7.16 (m, 5H), 6.74 (d, J=8.8 Hz, 1H), 3.82 (s, 2H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=methylene chloride-hexanes (1:1); Rf=0.38.

reactant | 4-bromophenol | 0.08 Mol, 13.84 gm | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 4-fluorobenzyl alcohol | 0.08 Mol, 8.68 gm | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | dichloroethane | 120 mL | ClC(C)Cl | C2H4Cl2
catalyst | zinc bromide | 0.09 Mol, 21 gm | [Br-].[Zn+2].[Br-]
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | 4-bromo-2-(4-fluorobenzyl)phenol | 9.25 g, 41% | BrC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)F | C13H10BrFO
